US20010008939A1
7-phenyliminomethylcamptothecin (CPT 154)
100 mg (0.26 mmoles) of 7-formylcamptothecin, dissolved into 20 ml of methylene chloride, and 25 μl (0.26 mmoles) of aniline, dissolved into 0.5 ml of methylene chloride, were added to a suspension of ytterbium triphlate (16.5 mg. 0.026 mmoles, 10 % mol) in 5 ml of methylene chloride containing MS 4A and were left 3.5 hours under stirring at room T, then the solvent was evaporated under vacuum. The product was purified by means of flash chromatography on silica gel using a mixture of methylene chloride/methanol 98/2 as eluant. 60 mg of a yellow solid were obtained.

reactant | 7-formylcamptothecin | 0.26 mmoles, 100 mg | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC4=C(C5=CC=CC=C5N=C4C3=C2)C=O)O | C21H16N2O5
reactant | aniline | 0.26 mmoles, 25 μl | NC1=CC=CC=C1 | C6H7N
reactant | ytterbium | 0.026 mmoles, 16.5 mg | [Yb] | Yb
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 7-phenyliminomethylcamptothecin | 60 mg, Yield 51% | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC4=C(C5=CC=CC=C5N=C4C3=C2)C=NC6=CC=CC=C6)O | C27H21N3O4
